US07968570B2
A mixture of 2-benzyl-5-bromo-2,3-dihydro-isoindol-1-one (0.065 g, 0.22 mmol), 30% sodium methoxide-methanol (0.06 mL, 0.33 mmol), and CuBr (0:004 g, 0.03 mmol) in methanol (4 mL) was stirred at 100° C. for 1 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-benzyl-5-methoxy-2,3-dihydro-isoindol-1-one (0.03 g, 54%). 1H NMR (300 MHz, CDCl3): δ (ppm) 3.86 (s, 3H), 4.22 (s, 2H), 4.78 (s, 2H), 6.82-7.29 (m, 7H), 7.79 (d, 1H).

reactant | 2-benzyl-5-bromo-2,3-dihydro-isoindol-1-one | 0.22 mmol, 0.065 g | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C1)Br)=O | C15H12BrNO
reactant | sodium methoxide methanol | 0.33 mmol, 0.06 mL | C[O-].[Na+].CO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 2-benzyl-5-methoxy-2,3-dihydro-isoindol-1-one | 0.03 g, 54% | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C1)OC)=O | C16H15NO2
